US04760087
(a) 5-(2'-Chlorovinyl)-1,2,3-trimethoxy-benzene
To a suspension of 11.94 g of (chloromethyl)-triphenylphosphonium chloride in 85 ml of absolute dimethylsulfoxide and 170 ml of absolute tetrahydrofuran were added dropwise at 0° C., while stirring in an atmosphere of dry nitrogen, 21.5 ml of n-butyllithium solution. After stirring for 30 minutes a solution of 5.48 g of 3,4,5-trimethoxybenzaldehyde in 20 ml of absolute tetrahydrofuran was added dropwise. The mixture was stirred for 30 minutes at 0° C. and then allowed to warm to room temperature. After about 4 hours the reaction mixture was worked up in the manner described in Example 5e. Column chromatography of the raw product with petroleum ether/ether (2:1) yielded 4.64 g of the title compound.

reactant | (chloromethyl)-triphenylphosphonium chloride | 11.94 g | [Cl-].ClC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 21.5 ml | C(CCC)[Li]
reactant | 3,4,5-trimethoxybenzaldehyde | 5.48 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
solvent | dimethylsulfoxide | 85 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-(2'-Chlorovinyl)-1,2,3-trimethoxy-benzene | 4.64 g | ClC=CC=1C=C(C(=C(C1)OC)OC)OC | C11H13ClO3
